US06271225B1
2-Isopropenylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (780 mg) was suspended in dioxane (40 ml) and 10% palladium-activated charcoal (100 mg) was added. Hydrogen was sealed in and the mixture was stirred at 40° C., 50 atm for 7.5 hours. The catalyst was filtered off and the solvent was evaporated under reduced pressure to give 2-isopropylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (600 mg).

reactant | 2-Isopropenylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 780 mg | C(=C)(C)C1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C14H11NO2S
reactant | Hydrogen | [H][H] | H2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 100 mg | [Pd] | Pd
product | 2-isopropylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 600 mg | C(C)(C)C1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C14H13NO2S
